US06423714B1
3-Benzyl-2-cyclohepten-1-ol
A solution of 3-benzyl-2-cyclohepten-1-one (3.1 g, 18 mmol) in either 100 mL) was slowly added to a suspension of lithium aluminum hydride (LAH) (684 mg, 0.87 mol) and ether (100 mL) at 0° C. under N2. The resulting mixture was stirred overnight at ambient temperature and cooled to 0° C. Saturated K2CO3 solution was added to quench the excess LAH, the mixture was filtered through Celite and washed with several portions of ether. The combined organic layers were dried (MgSO4) and concentrated in vacuo to give the title compound (3 g, 93%) as a colorless oil. NMR (CDCl3):3.32(ABq,J=6 Hz,2H, benzylic protons), 4.42 (bs, 1H, CHOH), 5.58 (bs, 1H, olefinic proton), 7.22 (m, 5H, aromatic protons).

reactant | 3-benzyl-2-cyclohepten-1-one | 18 mmol, 3.1 g | C(C1=CC=CC=C1)C1=CC(CCCC1)=O | C14H16O
reactant | lithium aluminum hydride | 0.87 mol, 684 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-Benzyl-2-cyclohepten-1-ol | 3 g, 93% | C(C1=CC=CC=C1)C1=CC(CCCC1)O | C14H18O
